### PR TITLE
refactor: define List.IsChain, deprecate Chain and Chain'

### PR DESCRIPTION
**Pull request by linesthatinterlace**
Will require mathlib update. Deprecates #1052 which now appears to be inactive.

### CODE REVIEW

File: Batteries/Data/List/Basic.lean [hunk 1]
```diff
@@ -555,29 +555,54 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
...
 ```
 Chain R a [b, c, d] ↔ R a b ∧ R b c ∧ R c d
 ``` -/
-inductive Chain : α → List α → Prop
-  /-- A chain of length 1 is trivially a chain. -/
-  | nil {a : α} : Chain a []
-  /-- If `a` relates to `b` and `b::l` is a chain, then `a :: b :: l` is also a chain. -/
-  | cons : ∀ {a b : α} {l : List α}, R a b → Chain b l → Chain a (b :: l)
+@[deprecated IsChain (since := "2025-09-19")]
+def Chain : (α → α → Prop) → α → List α → Prop := (IsChain · <| · :: ·)
```
Comment (Rob23oba) [inline Batteries/Data/List/Basic.lean:590]: Let's maybe add some deprecated versions of `Chain.nil` and `Chain.cons` as in
```suggestion

set_option linter.deprecated false in
@[deprecated IsChain.singleton (since := "2025-09-19"), match_pattern]
def Chain.nil {a : α} : Chain a [] := Chain.singleton a

@[deprecated (since := "2025-09-19"), match_pattern]
alias Chain.cons := IsChain.cons₂

```

File: Batteries/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -330,43 +330,91 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+@[deprecated (since := "2025-09-19")]
+alias rel_of_chain_cons := rel_of_isChain_cons₂
+
+theorem isChain_of_isChain_cons₂ {a b : α} {l : List α} (p : IsChain R (a :: b :: l)) :
+    IsChain R (b :: l) := (isChain_cons₂.1 p).2
+
+@[deprecated (since := "2025-09-19")]
+alias chain_of_chain_cons := isChain_of_isChain_cons₂
+
+@[grind]
```
Comment (Rob23oba) [inline Batteries/Data/List/Lemmas.lean]: I'm not convinced this is a good `grind` lemma, this simply matches on all pairs of `IsChain R l` in the context (growing quadratically)

File: Batteries/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -330,43 +330,91 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+@[deprecated (since := "2025-09-19")]
+alias Chain.imp := IsChain.imp
+
+@[deprecated (since := "2025-09-19")]
+alias Chain.imp' := IsChain.imp'
+
+@[deprecated (since := "2025-09-19")]
+protected alias Pairwise.chain := Pairwise.isChain
+
+protected theorem IsChain.pairwise (ht : ∀ ⦃a b c⦄, R a b → R b c → R a c) (c : IsChain R l) :
```
Comment (Rob23oba) [inline Batteries/Data/List/Lemmas.lean]: It would probably be nice to have a variant where the transitivity proof is automatic, as in `[Trans R R R]`.

File: Batteries/Data/List/Lemmas.lean [hunk 4]
```diff
@@ -330,43 +330,91 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    Pairwise R l := by
+  induction c with
+  | nil | singleton => grind
+  | cons₂ hr h p =>
+    simp at p ⊢
```
Comment (Rob23oba) [inline Batteries/Data/List/Lemmas.lean]: Non-terminal simp

File: Batteries/Data/List/Lemmas.lean [hunk 5]
```diff
@@ -330,43 +330,91 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+alias rel_of_chain_cons := rel_of_isChain_cons₂
+
+theorem isChain_of_isChain_cons₂ {a b : α} {l : List α} (p : IsChain R (a :: b :: l)) :
+    IsChain R (b :: l) := (isChain_cons₂.1 p).2
+
+@[deprecated (since := "2025-09-19")]
+alias chain_of_chain_cons := isChain_of_isChain_cons₂
+
+@[grind]
+theorem IsChain.imp {S : α → α → Prop} (H : ∀ ⦃a b⦄, R a b → S a b) {l : List α} (p : IsChain R l) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Use `Subrelation`.

File: Batteries/Data/List/Lemmas.lean [hunk 6]
```diff
@@ -330,43 +330,91 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain S l := by induction p with grind
+
+theorem IsChain.imp' {S : α → α → Prop} (HRS : ∀ ⦃a b⦄, R a b → S a b)
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Same.

File: Batteries/Data/List/Basic.lean [hunk 7]
```diff
@@ -555,29 +555,54 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
...
+inductive IsChain (R : α → α → Prop) : List α → Prop where
+  /-- A list of length 0 is a chain. -/
+  | nil : IsChain R []
+  /-- A list of length 1 is a chain. -/
+  | singleton (a : α) : IsChain R [a]
+  /-- If `a` relates to `b` and `b::l` is a chain, then `a :: b :: l` is also a chain. -/
+  | cons₂ (hr : R a b) (h : IsChain R (b :: l)) : IsChain R (a :: b :: l)
+
+
+variable {R : α → α → Prop}
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]: Batteries tends to avoid `variable`. I don't think this one is necessary.

File: Batteries/Data/List/Basic.lean [hunk 8]
```diff
@@ -555,29 +555,54 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
...
+```
+IsChain R [a, b, c, d] ↔ R a b ∧ R b c ∧ R c d
+``` -/
+inductive IsChain (R : α → α → Prop) : List α → Prop where
+  /-- A list of length 0 is a chain. -/
+  | nil : IsChain R []
+  /-- A list of length 1 is a chain. -/
+  | singleton (a : α) : IsChain R [a]
+  /-- If `a` relates to `b` and `b::l` is a chain, then `a :: b :: l` is also a chain. -/
+  | cons₂ (hr : R a b) (h : IsChain R (b :: l)) : IsChain R (a :: b :: l)
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]: I like saving keystrokes too but this should be `cons_cons` and also below.

File: Batteries/Data/List/Basic.lean [hunk 9]
```diff
@@ -555,29 +555,54 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
 def pwFilter (R : α → α → Prop) [DecidableRel R] (l : List α) : List α :=
   l.foldr (fun x IH => if ∀ y ∈ IH, R x y then x :: IH else IH) []
 
-section Chain
+section IsChain
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]: This `section` is not necessary. A header comment is fine here.

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: Note that this does mean `grind` can no longer do the proof (I assume because it doesn't know what to do with Subrelation). Is this OK?

File: Batteries/Data/List/Basic.lean (hunk 9 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Basic.lean]: Actually even heads don't appear to be the norm in this file. I'll remove it.

File: Batteries/Data/List/Basic.lean (hunk 8 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Basic.lean]: Alright.

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (Rob23oba) [reply Batteries/Data/List/Lemmas.lean]: I'm not convinced, there is almost no API for `Subrelation` and e.g. `Pairwise.imp` also uses regular forall. Regardless, this shouldn't be tagged `grind`.

File: Batteries/Data/List/Lemmas.lean (hunk 4 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: `simp only` is OK, right?

File: Batteries/Data/List/Lemmas.lean (hunk 3 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: Do we need both versions? The `Trans` version would really seem to suffice. If we do have both, what is the naming convention?

File: Batteries/Data/List/Lemmas.lean (hunk 2 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: Fair enough.

**Comment by linesthatinterlace** [comment]
Add some comments.

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: I have removed the `grind`. I think I agree that using `Subrelation` here is not necessary.

File: Batteries/Data/List/Basic.lean (hunk 8 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Basic.lean]: [dropLast_cons₂](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Basic.html#List.dropLast_cons%E2%82%82)

Note that we do have things like this in Mathlib (not sure about Batteries).

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: Hm. I didn't realize `Subrelation` wasn't reducible. Seems that should be fixed.

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: I'm currently checking whether it makes sense to make `Subrelation` reducible [lean4#10464](https://github.com/leanprover/lean4/pull/10464). If so, there will be no difference between using `Subrelation` and spelling it out. However, this change cannot be forward ported here, so this PR will stick with the spelled-out version.

In any case, it would also be nice to have a theorem for `InvImage`.

File: Batteries/Data/List/Basic.lean (hunk 8 above)
Comment (fgdorais) [reply Batteries/Data/List/Basic.lean]: I'd rather stick to standard naming conventions than to promote non-standard ones; `cons²` would make more sense to me but I'd rather not invent new standards either.

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: Looks like it doesn't break anything in Lean, Batteries and Mathlib. Let's see if core accepts the PR, but there is no need to worry about that here.

File: Batteries/Data/List/Lemmas.lean [hunk 10]
```diff
@@ -330,43 +330,95 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+
+@[deprecated (since := "2025-09-19")]
+alias chain_of_chain_cons := isChain_of_isChain_cons_cons
+
+theorem IsChain.imp {S : α → α → Prop} (H : ∀ ⦃a b : α⦄, R a b → S a b) {l : List α}
+    (p : IsChain R l) : IsChain S l := by induction p with grind
+
+theorem IsChain.imp' {S : α → α → Prop} (HRS : ∀ ⦃a b : α⦄, R a b → S a b)
+    (Hab : ∀ ⦃c⦄, R a c → S b c) {l : List α} : IsChain R (a :: l) → IsChain S (b :: l) := by
+  cases l with grind [IsChain.imp]
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: This theorem is a bit too niche for my taste. I don't mind keeping it and I'm sure it was useful somewhere at some time, but I couldn't find any current uses in Batteries or Mathlib. I propose we deprecate `Chain.imp'` without a drop-in replacement. If CI finds a subtle use case then we can reevaluate before merging.

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: Here is a more useful lemma that fills in the gap:
```lean
theorem IsChain.change_head (h : ∀ c, R a c → R b c) : 
    IsChain R (a :: l) → IsChain R (b :: l) := by
  cases l <;> grind
```

File: Batteries/Data/List/Lemmas.lean (hunk 3 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: I agree that we don't need both versions: it's difficult to imagine a real situation where one would apply this theorem, locally prove that the relation is transitive, and then decide that the fact that this relation is transitive is not worth noting as a separate lemma.

In any case, if we eventually decide on having both versions, the spelled-out version should be `pairwise_of_trans` (or similar) and the `Trans` version should be just `pairwise`.

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: Since `imp` is (short but) definitively non-descriptive. This should eventually be renamed `IsChain.subrelation` (or similar) but there is no need to do this here since it's easier to handle all similar uses of `imp` at the same time.

File: Batteries/Data/List/Lemmas.lean (hunk 10 above)
Comment (Rob23oba) [reply Batteries/Data/List/Lemmas.lean]: If we want to stay more true to the naming convention, something like `IsChain.cons_imp`. Then we can deprecate `IsChain.imp'` for `IsChain.imp` and `IsChain.cons_imp`.

File: Batteries/Data/List/Lemmas.lean (hunk 5 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: I will leave this here then and we can revisit when that change to core goes through.

File: Batteries/Data/List/Lemmas.lean (hunk 10 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: I have found a use for this in one place, but I agree it isn't an ideal name.

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: Where?

Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: It was useful when adapting the proof of `Encodable.raise'_chain` in mathlib4-nightly-testing#70. But that literally is the only place I found to use it.

Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: However I just managed to factor it out, on second thoughts. I've called your `change_head` `cons_of_imp_of_cons`.

Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: I was hoping to get rid of `imp` but I think we're stuck with it for the moment.

File: Batteries/Data/List/Basic.lean [hunk 11]
```diff
@@ -555,29 +555,55 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
...
+  ⟨fun | .cons_cons hr h => ⟨hr, h⟩, fun ⟨hr, h⟩ => .cons_cons hr h⟩
 
-variable (R : α → α → Prop)
+instance instDecidableIsChain {R : α → α → Prop} [h : DecidableRel R] (l : List α) :
+    Decidable (l.IsChain R) := match l with | [] => isTrue .nil | a :: l => go a l
+  where
+    go (a : α) (l : List α) : Decidable ((a :: l).IsChain R) :=
+      match l with
+      | [] => isTrue <| .singleton a
+      | b :: l => haveI := (go b l); decidable_of_iff'  _ isChain_cons_cons
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
      | b :: l => haveI := (go b l); decidable_of_iff' _ isChain_cons_cons
```

File: Batteries/Data/List/Lemmas.lean [hunk 12]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
-theorem Chain.imp {R S : α → α → Prop} (H : ∀ a b, R a b → S a b) {a : α} {l : List α}
-    (p : Chain R a l) : Chain S a l :=
-  p.imp' H (H a)
+@[deprecated (since := "2025-09-19")]
+alias chain_cons := isChain_cons_cons
 
-protected theorem Pairwise.chain (p : Pairwise R (a :: l)) : Chain R a l := by
-  let ⟨r, p'⟩ := pairwise_cons.1 p; clear p
-  induction p' generalizing a with grind
+theorem rel_of_isChain_cons_cons {a b : α} {l : List α} (p : IsChain R (a :: b :: l)) : R a b :=
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem rel_of_isChain_cons_cons (p : IsChain R (a :: b :: l)) : R a b :=
```

File: Batteries/Data/List/Lemmas.lean [hunk 13]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+  (isChain_cons_cons.1 p).1
+
+@[deprecated (since := "2025-09-19")]
+alias rel_of_chain_cons := rel_of_isChain_cons_cons
+
+theorem isChain_cons_of_isChain_cons_cons {a b : α} {l : List α} (p : IsChain R (a :: b :: l)) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem isChain_cons_of_isChain_cons_cons (p : IsChain R (a :: b :: l)) :
```

File: Batteries/Data/List/Lemmas.lean [hunk 14]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain R (b :: l) := (isChain_cons_cons.1 p).2
+
+@[deprecated (since := "2025-09-19")]
+alias chain_of_chain_cons := isChain_cons_of_isChain_cons_cons
+
+theorem isChain_of_isChain_cons {b : α} {l : List α} (p : IsChain R (b :: l)) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem isChain_of_isChain_cons (p : IsChain R (b :: l)) :
```

File: Batteries/Data/List/Lemmas.lean [hunk 15]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain R l := by
+  cases l
+  · exact .nil
+  · exact isChain_cons_of_isChain_cons_cons p
+
+theorem isChain_of_isChain_cons_cons {a b : α} {l : List α} (p : IsChain R (a :: b :: l)) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem isChain_of_isChain_cons_cons (p : IsChain R (a :: b :: l)) :
```

File: Batteries/Data/List/Lemmas.lean (hunk 13 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean]: This is ultimately redundant but it will be a slow deprecation process...

File: Batteries/Data/List/Lemmas.lean [hunk 16]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain R l := isChain_of_isChain_cons (isChain_of_isChain_cons p)
+
+theorem IsChain.imp {S : α → α → Prop} (H : ∀ ⦃a b : α⦄, R a b → S a b) {l : List α}
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem IsChain.imp (H : ∀ ⦃a b : α⦄, R a b → S a b)
```

File: Batteries/Data/List/Lemmas.lean [hunk 17]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+
+@[deprecated (since := "2025-09-19")]
+alias Chain.imp := IsChain.imp
+
+theorem IsChain.cons_of_imp_of_cons (h : ∀ c, R a c → R b c) :
+    IsChain R (a :: l) → IsChain R (b :: l) := by cases l <;> grind
+
+@[deprecated "Use IsChain.imp and IsChain.change_head" (since := "2025-09-19")]
+theorem Chain.imp' {S : α → α → Prop} (HRS : ∀ ⦃a b : α⦄, R a b → S a b)
+    (Hab : ∀ ⦃c⦄, R a c → S b c) {l : List α} : IsChain R (a :: l) → IsChain S (b :: l) := by
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem Chain.imp' (HRS : ∀ ⦃a b : α⦄, R a b → S a b)
    (Hab : ∀ ⦃c⦄, R a c → S b c) : IsChain R (a :: l) → IsChain S (b :: l) := by
```

File: Batteries/Data/List/Lemmas.lean [hunk 18]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+  | 1, _ => .singleton _
+  | n + 2, step => (isChain_range' (s + step) (n + 1) step).cons_cons rfl
+
+@[deprecated isChain_range' (since := "2025-09-19")]
+theorem chain_succ_range' (s : Nat) (n : Nat) (step: Nat) :
+    IsChain (fun a b => b = a + step) (s :: range' (s + step) n step) := isChain_range'  _ (n + 1) _
+
+theorem isChain_lt_range' (s n : Nat) {step} (h : 0 < step) :
+    IsChain (· < ·) (range' s n step) :=
+  (isChain_range' s n step).imp fun _ _ e => e.symm ▸ Nat.lt_add_of_pos_right h
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
  (isChain_range' s n step).imp fun | _, _, rfl => Nat.lt_add_of_pos_right h
```

File: Batteries/Data/List/Lemmas.lean [hunk 19]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
-  | _, 0, _ => Chain.nil
-  | s, n + 1, step => (chain_succ_range' (s + step) n step).cons rfl
+theorem isChain_range' (s : Nat) : ∀ n step : Nat,
+    IsChain (fun a b => b = a + step) (range' s n step)
+  | 0, _ => .nil
+  | 1, _ => .singleton _
+  | n + 2, step => (isChain_range' (s + step) (n + 1) step).cons_cons rfl
+
+@[deprecated isChain_range' (since := "2025-09-19")]
+theorem chain_succ_range' (s : Nat) (n : Nat) (step: Nat) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem chain_succ_range' (s n step : Nat) :
```

File: Batteries/Data/List/Lemmas.lean [hunk 20]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain (fun a b => b = a + step) (s :: range' (s + step) n step) := isChain_range'  _ (n + 1) _
+
+theorem isChain_lt_range' (s n : Nat) {step} (h : 0 < step) :
+    IsChain (· < ·) (range' s n step) :=
+  (isChain_range' s n step).imp fun _ _ e => e.symm ▸ Nat.lt_add_of_pos_right h
 
+@[deprecated isChain_lt_range' (since := "2025-09-19")]
 theorem chain_lt_range' (s n : Nat) {step} (h : 0 < step) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem chain_lt_range' (s n : Nat) (h : 0 < step) :
```

File: Batteries/Data/List/Lemmas.lean [hunk 21]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain (fun a b => b = a + step) (range' s n step)
+  | 0, _ => .nil
+  | 1, _ => .singleton _
+  | n + 2, step => (isChain_range' (s + step) (n + 1) step).cons_cons rfl
+
+@[deprecated isChain_range' (since := "2025-09-19")]
+theorem chain_succ_range' (s : Nat) (n : Nat) (step: Nat) :
+    IsChain (fun a b => b = a + step) (s :: range' (s + step) n step) := isChain_range'  _ (n + 1) _
+
+theorem isChain_lt_range' (s n : Nat) {step} (h : 0 < step) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem isChain_lt_range' (s n : Nat) (h : 0 < step) :
```

**Review by fgdorais — CHANGES_REQUESTED** [review]
Cosmetic changes.

File: Batteries/Data/List/Lemmas.lean (hunk 13 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: Yes - I found when adapting Mathlib that it was convenient to still have these even though they are technically not needed, at least for now.

File: Batteries/Data/List/Basic.lean [hunk 22]
```diff
@@ -555,29 +555,55 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
 def pwFilter (R : α → α → Prop) [DecidableRel R] (l : List α) : List α :=
   l.foldr (fun x IH => if ∀ y ∈ IH, R x y then x :: IH else IH) []
 
-section Chain
+/-- `IsChain R l` means that `R` holds between adjacent elements of `l`.
+```
+IsChain R [a, b, c, d] ↔ R a b ∧ R b c ∧ R c d
+``` -/
```
Comment (Rob23oba) [inline Batteries/Data/List/Basic.lean:561]:
````suggestion
/--
`IsChain R l` means that `R` holds between adjacent elements of `l`. Example:
```
IsChain R [a, b, c, d] ↔ R a b ∧ R b c ∧ R c d
```
-/
````

File: Batteries/Data/List/Basic.lean [hunk 23]
```diff
@@ -555,29 +555,55 @@ pwFilter (·<·) [0, 1, 5, 2, 6, 3, 4] = [0, 1, 2, 3, 4]
...
+  ⟨fun | .cons_cons hr h => ⟨hr, h⟩, fun ⟨hr, h⟩ => .cons_cons hr h⟩
 
-variable (R : α → α → Prop)
+instance instDecidableIsChain {R : α → α → Prop} [h : DecidableRel R] (l : List α) :
+    Decidable (l.IsChain R) := match l with | [] => isTrue .nil | a :: l => go a l
+  where
+    go (a : α) (l : List α) : Decidable ((a :: l).IsChain R) :=
+      match l with
+      | [] => isTrue <| .singleton a
+      | b :: l => haveI := (go b l); decidable_of_iff' _ isChain_cons_cons
```
Comment (Rob23oba) [inline Batteries/Data/List/Basic.lean:582]:
```suggestion
instance {R : α → α → Prop} [h : DecidableRel R] : (l : List α) → Decidable (l.IsChain R)
  | [] => isTrue .nil | a :: l => go a l
where
  go (a : α) (l : List α) : Decidable ((a :: l).IsChain R) :=
    match l with
    | [] => isTrue <| .singleton a
    | b :: l => haveI := (go b l); decidable_of_iff' _ isChain_cons_cons
```

File: Batteries/Data/List/Lemmas.lean [hunk 24]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+theorem IsChain.imp (H : ∀ ⦃a b : α⦄, R a b → S a b)
+    (p : IsChain R l) : IsChain S l := by induction p with grind
+
+@[deprecated (since := "2025-09-19")]
+alias Chain.imp := IsChain.imp
+
+theorem IsChain.cons_of_imp_of_cons (h : ∀ c, R a c → R b c) :
+    IsChain R (a :: l) → IsChain R (b :: l) := by cases l <;> grind
+
+@[deprecated "Use IsChain.imp and IsChain.change_head" (since := "2025-09-19")]
```
Comment (Rob23oba) [inline Batteries/Data/List/Lemmas.lean:385]:
```suggestion
@[deprecated "Use IsChain.imp and IsChain.cons_of_imp_of_cons" (since := "2025-09-19")]
```

File: Batteries/Data/List/Lemmas.lean [hunk 25]
```diff
@@ -330,43 +330,105 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    IsChain R (b :: l) := (isChain_cons_cons.1 p).2
+
+@[deprecated (since := "2025-09-19")]
+alias chain_of_chain_cons := isChain_cons_of_isChain_cons_cons
+
+theorem isChain_of_isChain_cons (p : IsChain R (b :: l)) :
+    IsChain R l := by
+  cases l
+  · exact .nil
+  · exact isChain_cons_of_isChain_cons_cons p
```
Comment (Rob23oba) [inline Batteries/Data/List/Lemmas.lean:371]: Thinking about this again, it feels a bit pointless to define `isChain_cons_of_isChain_cons_cons` when `isChain_of_isChain_cons` is strictly more general and can always replace `isChain_cons_of_isChain_cons_cons`. So maybe something like this might be better:
```suggestion
theorem isChain_of_isChain_cons (p : IsChain R (b :: l)) : IsChain R l := by
  cases l
  · exact .nil
  · exact (isChain_cons_cons.1 p).2

@[deprecated isChain_of_isChain_cons (since := "2025-09-19")]
theorem chain_of_chain_cons (p : IsChain R (a :: b :: l)) :
    IsChain R (b :: l) := isChain_of_isChain_cons p
```
